US09278950B2
Step 4. 3-{[(Benzyloxy)carbonyl]amino}-7-ethoxy-1,8-naphthyridine-2-carboxylic acid
A solution containing ethyl 3-{[(benzyloxy)carbonyl]amino}-7-ethoxy-1,8-naphthyridine-2-carboxylate (47 mg, 0.12 mmol) and lithium hydroxide monohydrate (25 mg, 0.59 mmol) in THF (2.0 mL) and water (1.0 mL) was heated at 65° C. in a sealed vial for 2 h. A precipitate was filtered off and washed with EtOAc to afford the sub-title compound (11 mg). The filtrate was diluted with water (1 mL) and the solution was extracted with EtOAc (2×5 mL). The combined organic extract were washed with brine (3 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give additional sub-title compound (30 mg). The crude product was used directly in the subsequent reaction. LCMS (ESI) calc. for C19H18N3O5 [M+H]+: m/z=368.1. found: 368.0.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-ethoxy-1,8-naphthyridine-2-carboxylate | 0.12 mmol, 47 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=NC(=CC=C2C1)OCC)C(=O)OCC | C21H21N3O5
reactant | lithium hydroxide monohydrate | 0.59 mmol, 25 mg | O.[OH-].[Li+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 3-{[(Benzyloxy)carbonyl]amino}-7-ethoxy-1,8-naphthyridine-2-carboxylic acid | 11 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=NC(=CC=C2C1)OCC)C(=O)O | C19H17N3O5
